US04159338
4,5-bis-(2-Furyl)-1H-2-imidazolethiol (8.1 g; 39.4 mmoles) was reacted with 7.0 g of tetrafluoroethylene and the product purified by chromatography on Silicar CCNo. 7 with chloroform to give 3.0 g of 4,5-bis-(2-furyl)-2-(1,1,2,2-tetrafluoroethylthio)-1H-imidazole, m.p. 166°-167°: (recrystallized from 1-chlorobutane).

reactant | 4,5-bis-(2-Furyl)-1H-2-imidazolethiol | 39.4 mmoles, 8.1 g | O1C(=CC=C1)C=1N=C(NC1C=1OC=CC1)S | C11H8N2O2S
reactant | tetrafluoroethylene | 7.0 g | FC(=C(F)F)F | C2F4
product | 4,5-bis-(2-furyl)-2-(1,1,2,2-tetrafluoroethylthio)-1H-imidazole | 3.0 g | O1C(=CC=C1)C=1N=C(NC1C=1OC=CC1)SC(C(F)F)(F)F | C13H8F4N2O2S
